US07429579B2
3-(3-Chloropropyl)-7-methanesulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine
A mixture of 7-methanesulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine (1.75 g, 7.3 mmol), 1-bromo-3-chloropropane (0.80 ml, 8.1 mmol) and triethylamine (3 ml, 21.5 mmol) in anhydrous tetrahydrofuran (25 ml) was heated at reflux for 5 h. The mixture was cooled, evaporated in vacuo and the residue partitioned between water (100 ml) and ethyl acetate (100 ml). The aqueous layer was extracted with ethyl acetate (100 ml) and the combined organics washed with brine (150 ml), dried (Na2SO4) and evaporated in vacuo. Purification by chromatography on silica gel using 10-70% ethyl acetate in hexane gradient elution gave the title compound as a pale orange oil (1.22 g, 53%).

reactant | 7-methanesulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 7.3 mmol, 1.75 g | CS(=O)(=O)OC1=CC2=C(CCNCC2)C=C1 | C11H15NO3S
reactant | 1-bromo-3-chloropropane | 8.1 mmol, 0.80 ml | BrCCCCl | C3H6BrCl
reactant | triethylamine | 21.5 mmol, 3 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-(3-Chloropropyl)-7-methanesulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.22 g, 53% | ClCCCN1CCC2=C(CC1)C=CC(=C2)OS(=O)(=O)C | C14H20ClNO3S
